US03952001
A mixture of 5.75 g. 3-propylthio-1,2,4-triazole, 6.8 g. diallylcarbamoyl chloride, 25 ml. dry tetrahydrofuran and 8 ml. dry triethylamine was refluxed under anhydrous conditions for 3 hours. The reaction mixture was worked up as described in Example 1 to produce an oil which was distilled under reduced pressure to give 1-diallylcarbamoyl-3-propylthio-1,2,4-triazole, b.p. 134° - 135°C./0.1 mm. Gas-liquid chromatographic (GLC) assay indicated a content of 1-isomer of 94.2%. Elemental analysis satisfactory.

reactant | 3-propylthio-1,2,4-triazole | C(CC)SC1=NNC=N1 | C5H9N3S
reactant | diallylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-diallylcarbamoyl-3-propylthio-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)SCCC)CC=C | C12H18N4OS
